US09340538B2
2-(4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholin-3-yl)-2-methylpropanoic acid
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (3.02 g, 6 mmol) was reacted with 2-methyl-2-(morpholin-3-yl)propanoic acid hydrochloride (1.26 g, 6 mmol) according to the procedure as described in Example 1, Step C to give the title compound as a yellow solid (1.39 g, 39%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 6 mmol, 3.02 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1SC=CN1 | C17H14Br2FN3O2S
reactant | 2-methyl-2-(morpholin-3-yl)propanoic acid hydrochloride | 6 mmol, 1.26 g | Cl.CC(C(=O)O)(C)C1NCCOC1
product | 2-(4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholin-3-yl)-2-methylpropanoic acid | 1.39 g, 39% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC=CN1)CN1C(COCC1)C(C(=O)O)(C)C)C(=O)OCC | C25H28BrFN4O5S
